US07452880B2
Step 4 Preparation of (4-chloro-2-methylsulfanylpyrimidin-5-yl)-(2-chlorophenyl)-methanone.
To a cooled (ice bath) mixture of (2-chlorophenyl)-(4-hydroxy-2-methylsulfanylpyrimidin-5-yl)methanone (18.72 g, 66 mmol) and picoline (3.95 mL, 39.6 mmol) was added dropwise phosphoryl chloride (37.3 mL, 396 mmol) via an addition funnel. The resulting mixture was removed from the ice bath and heated to 80° C. for 2 hours. The reaction was cooled to ambient temperature and poured onto ice (250 mL). Ethyl acetate was added and the layers were partitioned and separated. The organic layer was further washed with two consecutive solutions of saturated sodium bicarbonate (150 mL) followed by brine (150 mL). The aqueous layers were back extracted with ethyl acetate (2×150 mL). The combined ethyl acetate layers were dried over magnesium sulfate, filtered and concentrated to give the product as a yellow solid (17.36 g, (M+H)+=299.

reactant | (2-chlorophenyl)-(4-hydroxy-2-methylsulfanylpyrimidin-5-yl)methanone | 66 mmol, 18.72 g | ClC1=C(C=CC=C1)C(=O)C=1C(=NC(=NC1)SC)O | C12H9ClN2O2S
reactant | picoline | 39.6 mmol, 3.95 mL | N1=C(C=CC=C1)C | C6H7N
reactant | phosphoryl chloride | 396 mmol, 37.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (4-chloro-2-methylsulfanylpyrimidin-5-yl)-(2-chlorophenyl)-methanone | ClC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)Cl)SC | C12H8Cl2N2OS
